US08871819B2
Synthesis of Hexaglycerol Octyloctanoate (Method III)
Into a 250 mL vessel, hexaglycerol (5.0 g, 10.81 mmol) was added and dissolved into anhydrous THF (50 mL). Hexanoic acid (10.84 mL, 86.49 mmol) was also dissolved into the reaction mixture which was stirred magnetically at room temperature for one hour to fully dissolve the reagents. N,N-dimethylaminopyridine (0.132 g, 1.08 mmol) was dissolved in the solution. When the catalysts were fully dissolved, EDC HCl (16.6 g, 86.6 mmol) was pipetted into the vessel and was sealed to keep the reaction dry. The reaction proceeded overnight at 55° C. The solution was stripped of THF via rotoevaporation and redissolved into chloroform. The organic layer was washed 2× with sodium bicarbonate buffer and 2× with deionized water to remove unreacted starting materials. The chloroform was removed to yield a clear viscous liquid. NMR analysis supported full conversion of hydroxyl groups to the hexanoic esters.

reactant | hexaglycerol | 10.81 mmol, 5.0 g | CCC(CO)(CO)CO | C6H14O3
reactant | Hexanoic acid | 86.49 mmol, 10.84 mL | C(CCCCC)(=O)O | C6H12O2
reactant | EDC HCl | 86.6 mmol, 16.6 g | CCN=C=NCCCN(C)C.Cl
reactant | THF | 50 mL | C1CCOC1 | C4H8O
product | Hexaglycerol Octyloctanoate | C(CCCCCCC)C(C(=O)O)CCCCCC.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO.OCC(O)CO | InChI=1S/C16H32O2.6C3H8O3/c1-3-5-7-9-10-12-14-15(16(17)18)13-11-8-6-4-2;6*4-1-3(6)2-5/h15H,3-14H2,1-2H3,(H,17,18);6*3-6H,1-2H2
